US05578620
3-(2-t-Butyldimethylsilyloxy-1-methylethyl)-5-(4-methoxyphenoxymethyl)oxazolidin-2-one
A procedure similar to that described in Preparation 11 was repeated, except that 3.36 g of 1-(4-methoxyphenoxymethyl)-2-(2-t-butyldimethylsilyloxy-1-methylethylamino)ethanol (prepared as described in Preparation 75), 1.78 g of N,N'-carbonyldiimidazole and 30 ml of anhydrous dimethylformamide were used, to give 1.42 g of the title compound having an Rf value of 0.41 (on silica gel thin layer chromatography, using a 1:2 by volume mixture of ethyl acetate and hexane as the developing solvent) from a polar diastereomer and 1.62 g of the title compound, melting at 81° C. to 85° C. from a less polar diastereomer.

reactant | 1-(4-methoxyphenoxymethyl)-2-(2-t-butyldimethylsilyloxy-1-methylethylamino)ethanol | 3.36 g | COC1=CC=C(OCC(CNC(CO[Si](C)(C)C(C)(C)C)C)O)C=C1 | C19H35NO4Si
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-(2-t-Butyldimethylsilyloxy-1-methylethyl)-5-(4-methoxyphenoxymethyl)oxazolidin-2-one | 1.42 g | [Si](C)(C)(C(C)(C)C)OCC(C)N1C(OC(C1)COC1=CC=C(C=C1)OC)=O | C20H33NO5Si
